US06100275
(±)-3-(4-Fluorophenyl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene Malonate
The title compound was prepared from 3-(4-fluorophenyl)-8-methyl-8-azabicyclo[3.2.1]octan-3-ol (4.7 g, 20 mmol), glacial acetic acid (20 mL) and concentrated hydrochloric acid (20 mL). The free base of the title compound was dissolved in isopropanol and malonic acid (1.7 g, 16.3 mmol) was added, after a while the title compound precipitated as powder and was isolated by filtration. Yield 4.6 g (72%), m.p. 122.2-123° C.

reactant | 3-(4-fluorophenyl)-8-methyl-8-azabicyclo[3.2.1]octan-3-ol | 20 mmol, 4.7 g | FC1=CC=C(C=C1)C1(CC2CCC(C1)N2C)O | C14H18FNO
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 20 mL | Cl | ClH
reactant | malonic acid | 16.3 mmol, 1.7 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | isopropanol | C(C)(C)O | C3H8O
product | (±)-3-(4-Fluorophenyl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene Malonate | C(CC(=O)O)(=O)O.FC1=CC=C(C=C1)C1=CC2CCC(C1)N2C | InChI=1S/C14H16FN.C3H4O4/c1-16-13-6-7-14(16)9-11(8-13)10-2-4-12(15)5-3-10;4-2(5)1-3(6)7/h2-5,8,13-14H,6-7,9H2,1H3;1H2,(H,4,5)(H,6,7)
